US06211197B1
Step 2 3-phenylbenzo[b]furan-7-yl-bromide
A mixture of 2-(2-bromophenoxy)-1-phenyl-1-ethanone (6.31 g) and polyphosphoric acid (285 g) was stirred at 95° C. for 6 h. The resulting solution was cooled to 50° C. , poured in water (2 L), extracted with Et2O (2×1 L). The combined organic extracts were washed with water (4×500 ml) and brine, dried over MgSO4 and concentrated. The residual solid was filtered on a plug of silica gel using Et2O. Recrystallization in hot hexane yielded the title compound (4.63g; 78%).

reactant | 2-(2-bromophenoxy)-1-phenyl-1-ethanone | 6.31 g | BrC1=C(OCC(=O)C2=CC=CC=C2)C=CC=C1 | C14H11BrO2
solvent | water | 2 L | O | H2O
product | 3-phenylbenzo[b]furan-7-yl-bromide | 4.63g, 78% | C1(=CC=CC=C1)C=1C2=C(OC1)C(=CC=C2)Br | C14H9BrO
